US04258187
A stirred mixture of 3.03 g (0.01 mole) of 6-chloro-3,4-dihydro-4-hydroxy-1,3-dimethyl-4-phenyl-2(1H)-quinazolinone and 2.09 g (0.03 mole) of hydroxylamine hydrochloride in 50 ml of ethanol was refluxed for 5 days. The reaction mixture was cooled, and the solid portion was collected on a filter, washed with ethanol, and dried in air to give 1.75 g (61%) of 6-chloro-1-methyl-4-phenyl-2-(1H)-quinazolinone 3-oxide as yellow crystals: mp 289°-291°; 1H nmr (TFA) δ4.22 ppm (s, 3H) and 7.6-8.5 ppm (m, 8H).

reactant | 6-chloro-3,4-dihydro-4-hydroxy-1,3-dimethyl-4-phenyl-2(1H)-quinazolinone | 0.01 mole, 3.03 g | ClC=1C=C2C(N(C(N(C2=CC1)C)=O)C)(C1=CC=CC=C1)O | C16H15ClN2O2
reactant | hydroxylamine hydrochloride | 0.03 mole, 2.09 g | Cl.NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-chloro-1-methyl-4-phenyl-2-(1H)-quinazolinone 3-oxide | 1.75 g, 61% | ClC=1C=C2C(=[N+](C(N(C2=CC1)C)=O)[O-])C1=CC=CC=C1 | C15H11ClN2O2
